US06013662
396.7 g (1.5 mol) of 1-hydroxy-6-(2-methoxyphenyl)-3-oxocyclohexane-1-carboxylic acid were heated at reflux for two hours in 13.3 dm3 of toluene in the presence of 39.7 g of para-toluenesulphonic acid. The reaction mixture was subsequently concentrated under reduced pressure and the precipitate formed was filtered off, washed with isopropyl ether and then dried at 50° C. 288 g (78%) of (RS)-6-(2-methoxyphenyl)-3-oxocyclohexene-1-carboxylic acid were thus obtained in the form of a brown solid, the characteristics of which were as follows:

reactant | 1-hydroxy-6-(2-methoxyphenyl)-3-oxocyclohexane-1-carboxylic acid | 1.5 mol, 396.7 g | OC1(CC(CCC1C1=C(C=CC=C1)OC)=O)C(=O)O | C14H16O5
reactant | para-toluenesulphonic acid | 39.7 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 13.3 dm3 | C1(=CC=CC=C1)C | C7H8
product | (RS)-6-(2-methoxyphenyl)-3-oxocyclohexene-1-carboxylic acid | 288 g, 78% | COC1=C(C=CC=C1)C1CCC(C=C1C(=O)O)=O | C14H14O4
